US05665777
Step 2: 4-[3-(4-cyanophenyl)phenoxyl]butanohydroxamic acid.
The desired compound was prepared according to the method of Example 15, step 4, except substituting O-benzyl-4-[3-(4-cyanophenyl)phenoxy]butanohydroxamic acid, prepared as in step 1, for N-benzyloxy-4-[3-(4-fluorophenyl)phenoxy]butyramide. 1H NMR (DMSO-d6) δ 1.97 (m, 2H), 2.15 (t, 2H, J=7.3 Hz), 4.05 (t, 2H, J=6.2 Hz), 7.01 (m, 1H), 7.29 (m, 2H), 7.42 (t, 1H, J=8.1 Hz), 7.91 (m, 4H), 8.72 (s, 1H), 10.42 (s, 1H). MS (FAB(+)) 297 (M+H+, 95), 264 (80), 102 (100); (FAB(-)) 295 (M-H-, 20), 194 (100). Anal. Calcd for C17H16N3O3 : C, 68.91; H, 5.44; N, 9.45. Found: C, 57.96; H, 4.66; N, 7.41.

reactant | O-benzyl-4-[3-(4-cyanophenyl)phenoxy]butanohydroxamic acid | C(C1=CC=CC=C1)ONC(CCCOC1=CC(=CC=C1)C1=CC=C(C=C1)C#N)=O | C24H22N2O3
reactant | N-benzyloxy-4-[3-(4-fluorophenyl)phenoxy]butyramide | C(C1=CC=CC=C1)ONC(CCCOC1=CC(=CC=C1)C1=CC=C(C=C1)F)=O | C23H22FNO3
product | 4-[3-(4-cyanophenyl)phenoxyl]butanohydroxamic acid | C(#N)C1=CC=C(C=C1)C=1C=C(OCCCC(=O)NO)C=CC1 | C17H16N2O3
